US07795262B2
Step 1. Preparation of ethyl pyrido[3,4-b]pyrazine-6(5H)-carboxylate
A solution of pyrido[3,4-b]pyrazine (20.0 g, 153 mmol) in anhydrous THF (250 mL) is cooled to −25° C. A solution of ethyl chloroformate (17.5 ml, 183 mmol) in THF (46 mL) is added dropwise. The mixture is stirred 1 hr at −25° C., and then LiBH4 (2.0 M, 23 mL, 46 mmol) is added dropwise and the mixture is stirred for 1 hr. The reaction is quenched with the addition of 1N NaOH (100 mL) and extracted with Et2O (3×100 mL). The organic extractions are combined, dried and evaporated. The crude product is purified by silica gel column chromatography eluting with hexane/EtOAc (3:2) to yield the title compound. MS (+VE) m/z 206.14 (M++1).

reactant | pyrido[3,4-b]pyrazine | 153 mmol, 20.0 g | N1=C2C(=NC=C1)C=NC=C2 | C7H5N3
reactant | ethyl chloroformate | 183 mmol, 17.5 ml | ClC(=O)OCC | C3H5ClO2
reactant | LiBH4 | 46 mmol, 2.0 M, 23 mL | [Li+].[BH4-]
solvent | THF | 250 mL | C1CCOC1 | C4H8O
solvent | THF | 46 mL | C1CCOC1 | C4H8O
product | ethyl pyrido[3,4-b]pyrazine-6(5H)-carboxylate | N1=C2C(=NC=C1)CN(C=C2)C(=O)OCC | C10H11N3O2
